US07504412B2
Methyl 3-methyl-6-nitroimidazo[1,2-a]pyridine-2-carboxylate
Operations similar to Production Example 1-(2) were conducted using methyl 3-bromo-2-oxobutanoate and 2-amino-5-nitropyridine. The resulting solid was suspended in ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate solution and purified by silica gel column chromatography (hexane/ethyl acetate=2/1) to provide the title compound as yellow crystals.

reactant | methyl 3-bromo-2-oxobutanoate | BrC(C(C(=O)OC)=O)C | C5H7BrO3
reactant | 2-amino-5-nitropyridine | NC1=NC=C(C=C1)[N+](=O)[O-] | C5H5N3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 3-methyl-6-nitroimidazo[1,2-a]pyridine-2-carboxylate | CC1=C(N=C2N1C=C(C=C2)[N+](=O)[O-])C(=O)OC | C10H9N3O4
